USH0001942H1
Step B 1-Methyl-5-hydroxy-3-(2-fluoro-4-chlorophenyl)pyrazole
A stirred solution of 44.0 grams (0.18 mole) of ethyl (2-fluoro-4-chloro-phenyl)malonate and 9.6 grams (0.24 mole) of methylhydrazine in 150 mL of 2-propanol was heated at reflux for about 48 hours. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was slurred in 80 mL of methylene chloride and filtered to collect 27.0 grams of 1-methyl-2-hydroxy-3-(2-fluoro-4-chlorophenyl)pyrazole.

reactant | ethyl (2-fluoro-4-chloro-phenyl)malonate | 0.18 mole, 44.0 grams | FC1=C(C=CC(=C1)Cl)C(C(=O)OCC)C(=O)[O-]
reactant | methylhydrazine | 0.24 mole, 9.6 grams | CNN | CH6N2
reactant | 2-propanol | 150 mL | CC(C)O | C3H8O
product | 1-Methyl-5-hydroxy-3-(2-fluoro-4-chlorophenyl)pyrazole | CN1N=C(C=C1O)C1=C(C=C(C=C1)Cl)F | C10H8ClFN2O
